US08334456B2
Step 1: Preparation of 4,8-bis(2-ethylhexyl)benzo[1,2-b:4,5-b′]dithiophene.
To a 100 mL flask under nitrogen was added magnesium (656 mg, 27 mmol) and anhydrous THF (10 mL). The mixture was heated under reflux and 2-ethylhexyl bromide (5.6 mL, 30 mmol) was added dropwise. The reaction mixture was kept at refluxing temperatures until all magnesium was consumed. After cooling down, 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione (1.1 g, 5.0 mmol) was added in one portion. After refluxing for 1 hour more, it was cooled down again to room temperature. SnCl2 solution (7.5 g in 19 mL 10% HCl) was slowly added dropwise and then the mixture was kept at 60° C. for 1 hour. After cooling down, brine (11 mL) was added. The organic phase was separated and dried over Na2SO4. The residue after vacuum evaporation was purified by column chromatography with hexane as eluent and gave a pale yellow oil (910 mg, yield 43%). 1H NMR (CDCl3, 500 MHz) δ=7.47 (d, J=6.0 Hz, 2H), 7.45 (d, J=6.0 Hz, 2H), 3.08-3.20 (m, 4H), 1.92-2.04 (m, 2H), 1.13-1.49 (m, 16H), 0.91 (t, J=7.0 Hz, 6H), 0.85 (t, J=7.0 Hz, 6H).

reactant | magnesium | 27 mmol, 656 mg | [Mg] | Mg
reactant | 2-ethylhexyl bromide | 30 mmol, 5.6 mL | C(C)C(CBr)CCCC | C8H17Br
reactant | 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 5.0 mmol, 1.1 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | SnCl2 | 19 mL, 7.5 g | Cl[Sn]Cl
solvent | brine | 11 mL | [Cl-].[Na+].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,8-bis(2-ethylhexyl)benzo[1,2-b:4,5-b′]dithiophene | 910 mg, yield 43% | C(C)C(CC1=C2C(SC=C2)=C(C2=C1SC=C2)CC(CCCC)CC)CCCC | C26H38S2
